US05192785
2-Methyl-2-phenoxy-1-propanol
This compound was prepared in 94% yield by reduction of 2,2-dimethylphenoxyacetic acid with a 1 molar solution of borane-tetrahydrofuran in tetrahydrofuran (Aldrich Chemical Co.) using the procedure of N. M. Yoon et al, J. Org. Chem. 38, 2786 (1973).

reactant | 2,2-dimethylphenoxyacetic acid | CC1(C(OCC(=O)O)C=CC=C1)C | C10H14O3
reactant | borane tetrahydrofuran | B.O1CCCC1
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Methyl-2-phenoxy-1-propanol | 94% yield | CC(CO)(C)OC1=CC=CC=C1 | C10H14O2
